US07220744B2
Rac-5-Methanesulfonyl-2-(1-trifluoromethyl-propoxy)-benzoic acid
Prepared in analogy to Example A14(c) from 2-fluoro-5-methanesulfonyl-benzoic acid (Example A14(b)) and rac-1,1,1-trifluoro-butan-2-ol. MS (m/e): 325.0 ([M−H]−, 100%)

reactant | 2-fluoro-5-methanesulfonyl-benzoic acid | FC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7FO4S
reactant | rac-1,1,1-trifluoro-butan-2-ol | FC(C(CC)O)(F)F | C4H7F3O
product | Rac-5-Methanesulfonyl-2-(1-trifluoromethyl-propoxy)-benzoic acid | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(CC)C(F)(F)F | C12H13F3O5S
